US07273877B2
Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was reacted with NaH and allyl bromide in DMF under the same conditions as for example 22, step A to give a crude solid which was purified by column chromatography on silica gel (50% EtOAc/hexanes as eluant). Ethyl 1-allyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was isolated as a white solid (78%), m.p. (EtOAc) 138-141° C. 1H NMR [(CD3)2SO, 400 MHz] δ 9.30 (s, 1H), 8.45 (s, 1H), 7.77 (dd, J=10.1, 1.9 Hz, 1H), 7.61 (ddd, J=8.4, 2.0, 0.8 Hz, 1H), 7.31 (t, J=8.5 Hz, 1H), 5.98-5.87 (m, 1H), 5.47 (d, J=1.3 Hz, 1H), 5.19 (ddd, J=10.4, 2.7, 1.3 Hz, 1H), 5.12 (ddd, J=17.2, 3.0, 1.5 Hz, 1H), 4.54 (br d, J=5.5 Hz, 2H), 4.31 (q, J=7.1 Hz, 2H), 1.32 (t, J=7.1 Hz, 3H). Anal. Calcd for C17H16FIN2O3: C, 46.2; H, 3.7; N, 6.3. Found: C, 46.5; H, 3.6; N, 6.2.

reactant | Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | FC1=C(NC=2C(=CNC(C2)=O)C(=O)OCC)C=CC(=C1)I | C14H12FIN2O3
reactant | NaH | [H-].[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 1-allyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | C(C=C)N1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)OCC | C17H16FIN2O3
